US05712417
Synthesis analogous to Example 13. The bis-(1,1-dimethyl-ethylthiomethyl)-acetic acid was synthesized from diethyl bis-(hydroxymethyl)-malonate by reaction with hydrogen bromide and subsequent replacement of the resulting β,β'-dibromoisobutyric acid with potassium tert.-butylsulfide.

reactant | diethyl bis-(hydroxymethyl)-malonate | OCC(C(=O)OCC)(C(=O)OCC)CO | C9H16O6
reactant | hydrogen bromide | Br | BrH
reactant | potassium tert.-butylsulfide | C(C)(C)(C)SC(C)(C)C.[K]
product | bis-(1,1-dimethyl-ethylthiomethyl)-acetic acid | CC(C)(SCC)C(C(=O)O)C(C)(C)SCC | C12H24O2S2
